US08207174B2
4-(tert-Butyl-dimethyl-silanyloxy)-phenol
4-Hydroxyphenyl benzoate (9.0 mmol) was dissolved in CH2Cl2 (9 mL/mmol), TBDMS-Cl (1.5 eq., 13.5 mmol) and imidazole (2.0 eq., 18.0 mmol) were added and the mixture was stirred at r.t. overnight. The mixture was diluted with MeOH (4.5 mL/mmol), and NaBH4 (2.5 eq., 22.5 mmol) was added slowly over 5 min (attention: vigorous gas evolution). The mixture was concentrated by removing CH2Cl2 under reduced pressure and the suspension was heated to 65° C. for 15 h.

reactant | 4-Hydroxyphenyl benzoate | 9.0 mmol | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)O | C13H10O3
reactant | TBDMS-Cl | 13.5 mmol, 1.5 eq. | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 18.0 mmol, 2.0 eq. | N1C=NC=C1 | C3H4N2
reactant | NaBH4 | 22.5 mmol, 2.5 eq. | [BH4-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 4-(tert-Butyl-dimethyl-silanyloxy)-phenol | C(C)(C)(C)[Si](OC1=CC=C(C=C1)O)(C)C | C12H20O2Si
